US06159904
A 100-ml round-bottomed flask was charged with 1.38 g (10.00 mmol) of 2,5-dimethylthiophenol, 1.40 g (10.26 mmol) of 3-chloropivalic acid and 15 ml of acetone. Then, 2.07 g (15.0 mmol) of potassium carbonate was added, and the mixture was refluxed under heat for 30 minutes. The reaction mixture was allowed to cool to room temperature, and then about 100 ml of water was added. An aqueous layer was washed with n-hexane once, and neutralized and acidified with a 5 wt % hydrochloric acid aqueous solution. A precipitated solid was extracted with ethyl acetate, and an organic layer was washed with diluted hydrochloric acid and with a saturated sodium chloride aqueous solution and dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure to give 1.90 g (yield 80%) of 3-(2,5-dimethylphenylthio)pivalic acid.

reactant | 2,5-dimethylthiophenol | 10.00 mmol, 1.38 g | CC1=C(C=C(C=C1)C)S | C8H10S
reactant | 3-chloropivalic acid | 10.26 mmol, 1.40 g | ClCC(C(=O)O)(C)C | C5H9ClO2
reactant | acetone | 15 ml | CC(=O)C | C3H6O
reactant | potassium carbonate | 15.0 mmol, 2.07 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | about 100 ml | O | H2O
product | 3-(2,5-dimethylphenylthio)pivalic acid | 1.90 g, yield 80% | CC1=C(C=C(C=C1)C)SCC(C(=O)O)(C)C | C13H18O2S
